### ISSUE TITLE
`TODO` theorem `Term.subst_comm` in `Cslib/Languages/LambdaCalculus/Named/Untyped/Basic.lean`

### ISSUE THREAD

**Issue by hbghlyj** [cs-lean/cslib#660]
Inside a commented-out `TODO` theorem `Term.subst_comm` in `Cslib/Languages/LambdaCalculus/Named/Untyped/Basic.lean`, it claimed unconditional commutativity of capture-avoiding substitution for the named λ-calculus:

`(m[x := n1])[y := n2] = (m[y := n2])[x := n1]`.

This statement is false:

- The variables must be distinct (e.g. `m = var x`, `n1 = var y` makes the two sides differ).
- Even with the usual side conditions `x ∉ n2.fv`, `y ∉ n1.fv` it still fails *up to syntactic equality*: a brute-force search produced terms where the two sides are α-equivalent but pick different fresh bound-variable names (this representation renames bound variables on the fly via a `HasFresh` oracle). A fully general statement would have to be phrased up to α-equivalence.

https://github.com/leanprover/cslib/blob/70c5bf5874a1a511b32ad1ae605c07a13345d071/Cslib/Languages/LambdaCalculus/Named/Untyped/Basic.lean#L105-L112

`Term.subst_comm` with the necessary hypotheses: the substituted variables are distinct (`x ≠ y`) and both substituted terms are closed (`n1.fv = ∅`, `n2.fv = ∅`), so the renaming branch never fires and the lemma holds with genuine syntactic equality. The closedness/distinctness hypotheses are each load-bearing.
```
/-
The unconditional commutativity of substitution stated in the `TODO` above is **false** for this
named representation. Capture-avoiding substitution renames bound variables on the fly using the
`HasFresh` oracle, so the two sides of the equation are in general only α-equivalent, not
syntactically equal.
* A first issue is that the variables must be distinct: e.g. taking `m = var x`, `n1 = var y` and
  any `n2` with `x ≠ y`, the left-hand side reduces to `n2` while the right-hand side reduces to
  `var y`.
* More subtly, even adding the usual side conditions `x ∉ n2.fv` and `y ∉ n1.fv` is *not* enough
  for syntactic equality: a brute-force search finds terms for which the two sides are
  α-equivalent but pick different fresh bound-variable names, hence differ as syntax trees.
Substitutions do, however, commute up to syntactic equality whenever both substituted terms are
closed — so that the capture-avoiding renaming branch never fires — and the substituted variables
are distinct. We state and prove this faithful version (`Term.subst_comm`) below, after two
auxiliary lemmas. A fully general statement would have to be phrased up to α-equivalence (`=α`).
-/
/-- Substituting a closed term `n` never triggers the capture-avoiding renaming branch, so under a
binder substitution acts structurally. -/
theorem Term.subst_abs_of_closed [DecidableEq Var] [HasFresh Var]
    {z x : Var} {m' n : Term Var} (hn : n.fv = ∅) :
    (Term.abs z m').subst x n
      = if z = x then Term.abs z m' else Term.abs z (m'.subst x n) := by
  rw [Term.subst]
  simp only [hn, Finset.notMem_empty, not_false_eq_true, if_true]
/-- Computation rule for substitution on a variable. -/
theorem Term.subst_var [DecidableEq Var] [HasFresh Var] {z x : Var} {n : Term Var} :
    (Term.var z).subst x n = if z = x then n else Term.var z := by
  rw [Term.subst]
/-- Computation rule for substitution on an application. -/
theorem Term.subst_app [DecidableEq Var] [HasFresh Var] {x : Var} {a b n : Term Var} :
    (Term.app a b).subst x n = Term.app (a.subst x n) (b.subst x n) := by
  rw [Term.subst]
/-- A term is left unchanged by substituting a variable that does not occur free in it, provided the
substituted term is closed (so that no capture-avoiding renaming happens). -/
theorem Term.subst_eq_of_notMem_fv [DecidableEq Var] [HasFresh Var]
    {x : Var} {r n : Term Var} (hn : n.fv = ∅) (hx : x ∉ r.fv) :
    r.subst x n = r := by
  induction r with
  | var z =>
    rw [Term.subst]
    simp only [Term.fv, Finset.mem_singleton] at hx
    exact if_neg (fun h => hx h.symm)
  | abs z m' ih =>
    rw [Term.subst_abs_of_closed hn]
    by_cases hzx : z = x
    · exact if_pos hzx
    · rw [if_neg hzx]
      have hxm : x ∉ m'.fv := by
        intro hmem
        apply hx
        simp only [Term.fv]
        exact Finset.mem_erase.mpr ⟨fun h => hzx h.symm, hmem⟩
      rw [ih hxm]
  | app a b iha ihb =>
    rw [Term.subst]
    simp only [Term.fv, Finset.mem_union, not_or] at hx
    rw [iha hx.1, ihb hx.2]
/-- Substitutions by closed terms with distinct variables commute.
This is a faithful, syntactic-equality version of the substitution lemma. The fully general
commutation statement is false for this named representation (substitution performs on-the-fly
bound-variable renaming via `HasFresh`), and only holds up to α-equivalence; see the discussion
above. The hypotheses are: the substituted variables are distinct (`hxy`) and both substituted
terms are closed (`hn1`, `hn2`). -/
theorem Term.subst_comm [DecidableEq Var] [HasFresh Var]
    {m : Term Var} {x y : Var} {n1 n2 : Term Var}
    (hxy : x ≠ y) (hn1 : n1.fv = ∅) (hn2 : n2.fv = ∅) :
    (m[x := n1])[y := n2] = (m[y := n2])[x := n1] := by
  change Term.subst (Term.subst m x n1) y n2 = Term.subst (Term.subst m y n2) x n1
  induction m with
  | var z =>
    by_cases hzx : z = x
    · subst hzx
      have hL : (Term.var z).subst z n1 = n1 := by rw [Term.subst_var, if_pos rfl]
      have hR : (Term.var z).subst y n2 = Term.var z := by rw [Term.subst_var, if_neg hxy]
      rw [hL, hR, hL]
      exact Term.subst_eq_of_notMem_fv hn2 (by rw [hn1]; exact Finset.notMem_empty y)
    · by_cases hzy : z = y
      · subst hzy
        have hR : (Term.var z).subst x n1 = Term.var z := by
          rw [Term.subst_var, if_neg (Ne.symm hxy)]
        have hL : (Term.var z).subst z n2 = n2 := by rw [Term.subst_var, if_pos rfl]
        rw [hR, hL]
        exact (Term.subst_eq_of_notMem_fv hn1 (by rw [hn2]; exact Finset.notMem_empty x)).symm
      · have h1 : (Term.var z).subst x n1 = Term.var z := by rw [Term.subst_var, if_neg hzx]
        have h2 : (Term.var z).subst y n2 = Term.var z := by rw [Term.subst_var, if_neg hzy]
        rw [h1, h2, h1]
  | abs z m' ih =>
    by_cases hzx : z = x
    · subst hzx
      have aL1 : (Term.abs z m').subst z n1 = Term.abs z m' := by
        rw [Term.subst_abs_of_closed hn1, if_pos rfl]
      have aL2 : (Term.abs z m').subst y n2 = Term.abs z (m'.subst y n2) := by
        rw [Term.subst_abs_of_closed hn2, if_neg hxy]
      have aR : (Term.abs z (m'.subst y n2)).subst z n1 = Term.abs z (m'.subst y n2) := by
        rw [Term.subst_abs_of_closed hn1, if_pos rfl]
      rw [aL1, aL2, aR]
    · by_cases hzy : z = y
      · subst hzy
        have bL1 : (Term.abs z m').subst x n1 = Term.abs z (m'.subst x n1) := by
          rw [Term.subst_abs_of_closed hn1, if_neg (Ne.symm hxy)]
        have bR1 : (Term.abs z m').subst z n2 = Term.abs z m' := by
          rw [Term.subst_abs_of_closed hn2, if_pos rfl]
        have bL2 : (Term.abs z (m'.subst x n1)).subst z n2 = Term.abs z (m'.subst x n1) := by
          rw [Term.subst_abs_of_closed hn2, if_pos rfl]
        rw [bL1, bL2, bR1, bL1]
      · have cL1 : (Term.abs z m').subst x n1 = Term.abs z (m'.subst x n1) := by
          rw [Term.subst_abs_of_closed hn1, if_neg hzx]
        have cL2 : (Term.abs z (m'.subst x n1)).subst y n2
            = Term.abs z ((m'.subst x n1).subst y n2) := by
          rw [Term.subst_abs_of_closed hn2, if_neg hzy]
        have cR1 : (Term.abs z m').subst y n2 = Term.abs z (m'.subst y n2) := by
          rw [Term.subst_abs_of_closed hn2, if_neg hzy]
        have cR2 : (Term.abs z (m'.subst y n2)).subst x n1
            = Term.abs z ((m'.subst y n2).subst x n1) := by
          rw [Term.subst_abs_of_closed hn1, if_neg hzx]
        rw [cL1, cL2, cR1, cR2]
        exact congrArg (Term.abs z) ih
  | app a b iha ihb =>
    simp only [Term.subst_app]
    rw [iha, ihb]
```

**Comment by m-ow** [comment]
FYI there's a related [discussion](https://leanprover.zulipchat.com/#narrow/channel/513188-CSLib/topic/Named.20representation.20of.20lambda.20calculus/with/599374583) on Zulip that ran into the same issue.

It led to PR #458. Might be worth a look.
